US05935974
4-Chlorobutyryl chloride in dichlormethane was added to an ice cooled solution of piperidine (1.8 ml; 17.6 mmol) and triethylamine (2.5 ml) in dichloromethane (40 ml) under an atmosphere of nitrogen. The mixture was stirred for 5 min whilst being cooled, then stirred at ambient temperature for 3 h. The solution was washed with water, dried over sodium sulfate and evaporated to give 1-(4-chloro-1-oxobutyl)piperidine as a pale yellow oil (2.1 g).

reactant | 4-Chlorobutyryl chloride | ClCCCC(=O)Cl | C4H6Cl2O
reactant | piperidine | 17.6 mmol, 1.8 ml | N1CCCCC1 | C5H11N
reactant | triethylamine | 2.5 ml | C(C)N(CC)CC | C6H15N
solvent | dichlormethane | ClCCl | CH2Cl2
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 1-(4-chloro-1-oxobutyl)piperidine | 2.1 g | ClCCCC(=O)N1CCCCC1 | C9H16ClNO
